US05780607
To 3.31 g (10.61 mmol) of 9-(2-amino-2-deoxy-β-D-glucopyranosyl) guanine was added 72 mL of H2O. To this solution was added a 100 mL 1,4-dioxane solution containing 4.65 g (13.79 mmol) of N-(9-fluorenyl-methoxycarbonyloxy)succinimide. This resulted in a cloudy mixture. To this system was added 0.58 g (6.90 mmol) of NaHCO3. This mixture was stirred for 12 hours at room temperature. At this time, TLC indicated the consumption of starting material and the mixture was concentrated in vacuo to a dry residue. This residue was stirred for 3 hours in 310 mL of Et2O and 145 ml of H2O. The suspension was then filtered and the solid dried in a vacuum oven for 12 hours at 40° C. Thus was obtained 4.28 g (76%) of 9-(2-deoxy-2-[[(9H-fluoren-9-ylmethoxy)carbonyl]amino]-β-D-glucopyranosyl)guanine. 1H NMR: (DMSO-δ6): guanine H-8 7.72 (s, 1H), anomeric H-1 5.37 (d, 1H), Fmoc-methine 4.05 (m, 1H). FAB-MS: m/z 535 for (M+1)+.

reactant | 9-(2-amino-2-deoxy-β-D-glucopyranosyl) guanine | 10.61 mmol, 3.31 g | N[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1O)O)CO)N1C=2N=C(NC(C2N=C1)=O)N | C11H16N6O5
reactant | H2O | 72 mL | O | H2O
reactant | N-(9-fluorenyl-methoxycarbonyloxy)succinimide | 13.79 mmol, 4.65 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)ON1C(CCC1=O)=O | C19H15NO5
reactant | NaHCO3 | 6.90 mmol, 0.58 g | C(=O)(O)[O-].[Na+]
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 9-(2-deoxy-2-[[(9H-fluoren-9-ylmethoxy)carbonyl]amino]-β-D-glucopyranosyl)guanine | 4.28 g, 76% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1O)O)CO)N1C=2N=C(NC(C2N=C1)=O)N | C26H26N6O7
